US06916804B2
2-(4-Chlorophenyl)-5-methylpyrimidine-4,6-diol (42)
To ethanol (20 ml) was added sodium ethoxide solution (7.76 ml of a 21% wt solution in ethanol), 4-chlorobenzamidine hydrochloride (1.0 g) and diethylmethylmalonate (0.89 ml). The suspension was stirred at 40° C. in an inert atmosphere for 44 hrs after which time it was cooled to 5° C. and treated dropwise with concentrated hydrochloric acid to a pH of 2. The resulting suspension was filtered and washed with excess water, then ethanol (20 ml) and diethyl ether (20 ml) affording the title compound as a solid (1.71 g).

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | 4-chlorobenzamidine hydrochloride | 1.0 g | Cl.ClC1=CC=C(C(=N)N)C=C1
reactant | diethylmethylmalonate | 0.89 ml | C(C)OC(C(C(=O)OCC)C)=O | C8H14O4
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(4-Chlorophenyl)-5-methylpyrimidine-4,6-diol | 1.71 g | ClC1=CC=C(C=C1)C1=NC(=C(C(=N1)O)C)O | C11H9ClN2O2
